Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: UROLOGY
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
right renal mass 
 
Major Surgical or Invasive Procedure:
Robotic right partial nephrectomy.

 
History of Present Illness:
___ female with a RIGHT renal mass. A 2.6 cm right renal mass was 
incidentally noted on an ultrasound obtained to evaluated 
elevated LFTs likely hepatic steatosis by Dr. ___ 1 
month ago. 

Lower urinary symptoms include:
[] Weak Stream
[] Trouble initiating the urinary stream
[x] Frequency
[] Urgency
[x] Nocturia x3-4

Prior kidney biopsy: ___ by Dr. ___: 
Pathology showed low grade oncocytic tumor consistent with
cromophobe renal cell carcinoma.

No constitutional symptoms.  In particular denies new back or
bony pain, unintentional weight loss. She denies chest pain or
shortness of breath. 
 
Past Medical History:
She had gestational diabetes and diabetes for about ___ years. 
She
reports that her last A1c was about 7.1. 

fatty liver and experiences associated fevers and tiredness. 
This has been followed by hematology oncology. 

Problems:
ACROCHORDON                                                     
SEBORRHEIC KERATOSIS  
Depression
Leukocytosis
Hypertension
Hyperlipidemia
Type II DM
Elevated LFTs                                          

No history of MI, stroke, cardiac stent placement, DVT, or PE.
She has never been on anticoagulation medications.

She has had a stress test about ___ years ago with Dr. ___. 

Surgical History:
Open myomectomy
Cesarean section x1 
Multiple D&C
Laparoscopic bilateral tubal ligation

--------------- --------------- --------------- ---------------
Active Medication list as of ___:
 
Medications - Prescription
AMLODIPINE-ATORVASTATIN [CADUET] - Caduet 10 mg-40 mg tablet. 1
tablet(s) by mouth once a day -  (Prescribed by Other Provider)
CITALOPRAM [CELEXA] - Celexa 20 mg tablet. 1 tablet(s) by mouth
once a day -  (Prescribed by Other Provider)
DULAGLUTIDE [TRULICITY] - Trulicity 0.75 mg/0.5 mL subcutaneous
pen injector. 0.5 (One half) sc once a week -  (Prescribed by
Other Provider)
FENOFIBRATE - Dosage uncertain -  (Prescribed by Other Provider)
GLIMEPIRIDE - glimepiride 2 mg tablet. 2 tablet(s) by mouth with
lunch -  (Prescribed by Other Provider)
INSULIN ASP PRT-INSULIN ASPART [NOVOLOG MIX ___ U-100] 
-
Novolog Mix ___ FlexPen U-100 Insulin 100 unit/mL subcutaneous
pen. 36-44 units BID once a day Takes 44u in AM, 36u in ___ - 
(Prescribed by Other Provider)
LOSARTAN-HYDROCHLOROTHIAZIDE [HYZAAR] - Hyzaar 100 mg-12.5 mg
tablet. 1 tablet(s) by mouth once a day -  (Prescribed by Other
Provider)
METFORMIN - metformin 500 mg tablet. 2 tablet(s) by mouth twice 
a
day -  (Prescribed by Other Provider)
--------------- --------------- --------------- ---------------

Allergies  (Last Verified ___ by ___:
lisinopril - cough                                               


Social History:
___
FAMILY HISTORY:

Nephrolithiasis - no 
Renal Cell CA   - no
Bladder CA      - no    

Lung CA - Paternal grandfather 
___ CA- paternal grandmother
___ secondary to an ulcer -sister died of
______________________________________________________________

ROS:  complete ROS reviewed and documented in office note

______________________________________________________________
PHYSICAL EXAM: 

Vital Signs sheet entries for ___: 
BP: 150/69. Heart Rate: 80. O2 Saturation%: 98. Weight: 194.8
(With Clothes). Height: 59. BMI: 39.3. Temperature: 99.7. Resp.
Rate: 16. Pain Score: 0.

GENERAL: NAD, nl mood and affect, obese white female
NEURO: AO X 3
PSYCHIATRIC: Nl affect, insight, mood

Neck: Normal thyroid, no scars

RESPIRATORY: normal respiratory effort bilaterally

CARDIOVASCULAR: RRR, 2+ radial pulses bilaterally

GI: SNT, No obvious scars, no organomegaly, no hernias

No CVA tenderness

Lymph Nodes: No cervical nodes, no inguinal nodes

Extremities: Normal tone, no cyanosis, very minimal lower
extremity edema 

SKIN: No obvious rashes or lesions

_____________________________
Previous Labs:

___: Creatinine: 0.74

_______________

Imaging:

Abdomen u/s (___): IMPRESSION:  Exophytic 2.6 cm solid mass
arising from the lower pole of the right kidney, with internal
flow, concerning for possible malignancy such as renal cell
carcinoma.  Suggest MRI abdomen with gadolinium for further
evaluation. Also, in the right renal lower pole is a 0.8 cm
echogenic lesion, possibly an AML. Borderline splenomegaly.
Pancreatic tail and mid to distal aorta obscured by bowel gas.
Gallbladder adenomyomatosis Echogenic liver consistent with
steatosis. Other forms of liver disease and more advanced liver
disease including steatohepatitis or significant hepatic
fibrosis/cirrhosis cannot be excluded on this study.

MRI abdomen (___): IMPRESSION:  T1 hypointense, T2 slightly
hyperintense lesion demonstrating hypoenhancement in the 
inferior
pole of the right kidney is nonspecific.  Imaging findings are
most compatible with a metanephric adenoma.  Much less likely
considerations include renal oncocytoma, chromophobe renal cell
carcinoma and renal papillary adenoma-carcinoma.

Chest CT (___): IMPRESSION:  2 mm subpleural nodule left
upper lobe.

For incidentally detected single solid pulmonary nodule smaller
than 6 mm, no CT follow-up is recommended in a low-risk
patient, and an optional CT in 12 months is recommended in a
high-risk patient.

Fatty liver.  The known right renal lower pole mass is not
included on this film.

ACROCHORDON                                                     
SEBORRHEIC KERATOSIS  
Depression
Leukocytosis
Hypertension
Hyperlipidemia
Type II DM
Elevated LFTs                                          

No history of MI, stroke, cardiac stent placement, DVT, or PE.
She has never been on anticoagulation medications.

Open myomectomy
Cesarean section x1 
Multiple D&C
Laparoscopic bilateral tubal ligation

 
Social History:
___
Family History:
Nephrolithiasis - no 
Renal Cell CA   - no
Bladder CA      - no    

Lung CA - Paternal grandfather 
___ CA- paternal grandmother
___ secondary to an ulcer -sister died of

 
Physical Exam:
WdWn, NAD, AVSS
Interactive, cooperative
Abdomen soft, appropriately tender along incisions
Incisions otherwise c/d/i
Extremities w/out edema or pitting and there is no reported calf 
pain to deep palpation
 
Pertinent Results:
___ 06:45AM BLOOD WBC-10.3* RBC-3.62* Hgb-10.6* Hct-33.9* 
MCV-94 MCH-29.3 MCHC-31.3* RDW-14.9 RDWSD-51.3* Plt ___

___ 06:45AM BLOOD Glucose-269* UreaN-6 Creat-0.8 Na-144 
K-4.0 Cl-101 HCO3-28 AnGap-15
 
Brief Hospital Course:
Ms. ___ was admitted to Urology after undergoing laparoscopic 
robotic right partial
nephrectomy for renal cell cancer. No concerning intraoperative 
events occurred; please see dictated operative note for details. 
The patient received perioperative antibiotic prophylaxis. The 
patient was transferred to the floor from the PACU in stable 
condition. On POD0, pain was well controlled on PCA, hydrated 
for urine output >30cc/hour, and provided with pneumoboots and 
incentive spirometry for prophylaxis. On POD1, the patient 
ambulated, restarted on home medications, basic metabolic panel 
and complete blood count were checked, pain control was 
transitioned from PCA to oral analgesics, diet was advanced to a 
clears/toast and crackers diet. On POD2, urethral Foley catheter 
was removed without difficulty and diet was advanced as 
tolerated. The remainder of the hospital course was relatively 
unremarkable. The patient was discharged in stable condition, 
eating well, ambulating independently, voiding without 
difficulty, and with pain control on oral analgesics. On exam, 
incision was clean, dry, and intact, with no evidence of 
hematoma collection or infection. The patient was given explicit 
instructions to follow-up in clinic in approximately four weeks 
time.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. dulaglutide 0.75 mg/0.5 mL subcutaneous weekly 
4. Fenofibrate 160 mg PO DAILY 
5. glimepiride 2 mg oral LUNCH 
6. 70/30 44 Units Breakfast
70/30 36 Units Dinner
7. Losartan Potassium 100 mg PO DAILY 
8. Hydrochlorothiazide 12.5 mg PO DAILY 
9. MetFORMIN (Glucophage) 1000 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg ONE capsule(s) by mouth 
twice a day Disp #*60 Capsule Refills:*0 
3.  Ibuprofen 600 mg PO Q8H:PRN Pain - Mild 
RX *ibuprofen 600 mg one tab by mouth Q8hrs Disp #*25 Tablet 
Refills:*0 
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg one tablet(s) by mouth q6hrs Disp #*15 Tablet 
Refills:*0 
5.  Senna 17.2 mg PO QHS  
6.  70/30 44 Units Breakfast
70/30 36 Units Dinner 
7.  amLODIPine 10 mg PO DAILY  
8.  Atorvastatin 40 mg PO QPM  
9.  dulaglutide 0.75 mg/0.5 mL subcutaneous weekly  
10.  Fenofibrate 160 mg PO DAILY  
11.  glimepiride 2 mg oral LUNCH  
12.  Hydrochlorothiazide 12.5 mg PO DAILY  
13.  Losartan Potassium 100 mg PO DAILY  
14.  MetFORMIN (Glucophage) 1000 mg PO BID  
15.PAIN PILL LOG
Keep a log of narcotics (pain pill) used over the week and 
return the log sheet at your follow up appointment. 

Remember to also bring the narcotic prescription bottle WITH YOU 
for your follow up appointment.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
POSTOPERATIVE DIAGNOSIS:  Right renal cell carcinoma.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please also refer to the provided “handout” that details 
instructions and expectations for your post-operative phase as 
made available by your urologist. 

***please keep a log of narcotics (pain pill) used over the week 
and return the log sheet at your follow up appointment. Remember 
to also bring the narcotic prescription bottle WITH YOU for your 
follow up appointment.

-Resume your pre-admission/home medications except as noted. 
ALWAYS call to inform, review and discuss any medication changes 
and your post-operative course with your primary care doctor.

-___ reduce the strain/pressure on your abdomen and incision 
sites; remember to “log roll” onto your side and then use your 
hands to push yourself upright while taking advantage of the 
momentum of putting your legs/feet to the ground.

--There may be bandage strips called “steristrips” which have 
been applied to reinforce wound closure.  Allow these bandage 
strips to fall off on their own over time but PLEASE REMOVE ANY 
REMAINING GAUZE DRESSINGS WITHIN 2 DAYS OF DISCHARGE. You may 
get the steristrips wet.

-UNLESS OTHERWISE NOTED; AVOID aspirin or aspirin containing 
products and supplements that may have “blood-thinning” effects 
(like Fish Oil, Vitamin E, etc.).  This will be noted in your 
medication reconciliation. 

IF PRESCRIBED (see the MEDICATION RECONCILIATION):
-IBUPROFEN (the ingredient of Advil, Motrin, etc.) may be taken 
even though you may also be taking Tylenol/Acetaminophen. You 
may alternate these medications for pain control.  

For pain control, try TYLENOL (acetaminophen) FIRST, then 
ibuprofen, and then take the narcotic pain medication as 
prescribed if additional pain relief is needed.

-Ibuprofen should always be taken with food. Please discontinue 
taking and notify your doctor should you develop blood in your 
stool (dark, tarry stools)

-Call your Urologist's office to schedule/confirm your follow-up 
appointment in 4 weeks AND if you have any questions.

-Do not eat constipating foods for ___ weeks, drink plenty of 
fluids to keep hydrated

-No vigorous physical activity or sports for 4 weeks or until 
otherwise advised. Light household chores/activity and leisurely 
walking/activity is OK and should be continued. Do NOT be a 
“couch potato”

-Tylenol should be your first-line pain medication. A narcotic 
pain medication has been prescribed for breakthrough pain ___.

-Max daily Tylenol (acetaminophen) dose is THREE to FOUR grams 
from ALL sources

•AVOID lifting/pushing/pulling items heavier than 10 pounds (or 
3 kilos; about a gallon of milk) or participate in high 
intensity physical activity (which includes intercourse) until 
you are cleared by your Urologist in follow-up.

-No DRIVING for TWO WEEKS or until you are cleared by your 
Urologist

-You may shower normally but do NOT immerse your incisions or 
bathe

-Do not drive or drink alcohol while taking narcotics and do not 
operate dangerous machinery

-You may be given “prescriptions” for a stool softener and/or a 
gentle laxative. These are  over-the-counter medications that 
may be “health care spending account reimbursable.” 

-Colace (docusate sodium) may have been prescribed to avoid 
post-surgical constipation or constipation related to use of 
narcotic pain medications. Discontinue if loose stool or 
diarrhea develops. Colace is a stool-softener, NOT a laxative.

-Senokot (or any gentle laxative) may have been prescribed to 
further minimize your risk of constipation. 
 
Followup Instructions:
___